US07396846B2
N-(3-(4-Chlorophenyl)-2,2-dioxo-2-thia-1-aza-spiro[4.4]non-3-en-4-ylmethyl)-N-(2-fluoroethyl)amine
A solution of 2-fluoroethylamine hydrochloride (1.08 g, 10.9 mmol; prepared as described in J. Med. Chem. 9 (1966), 892-911) in 30 mL of absolute MeOH was treated with triethylamine (2.50 mL, 1.76 g, 17.4 mmol) at 0° C. Solid 4-bromomethyl-3-(4-chlorophenyl)-2,2-dioxo-2-thia-1-aza-spiro[4.4]non-3-ene (1.64 g, 4.35 mmol; described during the preparation of Intermediate 6) was added. The resulting mixture was stirred for 16 h at ambient temperature and concentrated to dryness under reduced pressure. The residue was purified by column chromatography on silica gel using dichloromethane/methanol as eluent to yield the title intermediate. Yield: 1.00 g (64%); MS (IS): 359.1 [M+H]+.

reactant | 2-fluoroethylamine hydrochloride | 10.9 mmol, 1.08 g | Cl.FCCN
reactant | triethylamine | 17.4 mmol, 2.50 mL, 1.76 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromomethyl-3-(4-chlorophenyl)-2,2-dioxo-2-thia-1-aza-spiro[4.4]non-3-ene | BrCC1=C(S(NC12CCCC2)(=O)=O)C2=CC=C(C=C2)Cl | C14H15BrClNO2S
solvent | MeOH | 30 mL | CO | CH4O
product | N-(3-(4-Chlorophenyl)-2,2-dioxo-2-thia-1-aza-spiro[4.4]non-3-en-4-ylmethyl)-N-(2-fluoroethyl)amine | ClC1=CC=C(C=C1)C=1S(NC2(C1CNCCF)CCCC2)(=O)=O | C16H20ClFN2O2S
